US07615568B2
A. Methyl 4-(Methylthiomethyl)-2-[3-(t-butoxycarbonyl-amino)propoxy]benzoate
Using a procedure analogous to Example 1-D, methyl 4-(methylthiomethyl)-2-hydroxybenzoate and 3-(t-butoxy-carbonylamino)propanol gave the title compound as a white solid (2.70 g, 76%).

reactant | methyl 4-(methylthiomethyl)-2-hydroxybenzoate | CSCC1=CC(=C(C(=O)OC)C=C1)O | C10H12O3S
reactant | 3-(t-butoxy-carbonylamino)propanol | C(C)(C)(C)OC(=O)NCCCO | C8H17NO3
product | Methyl 4-(Methylthiomethyl)-2-[3-(t-butoxycarbonyl-amino)propoxy]benzoate | 2.70 g, 76% | CSCC1=CC(=C(C(=O)OC)C=C1)OCCCNC(=O)OC(C)(C)C | C18H27NO5S
